US07612067B2
Preparation of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-morpholine
170 mg of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.37 mmol) and 100 mg of sodium trifluoroacetate (0.74 mmol) are dissolved in 3 ml of DMF/toluene=2/1. N2 gas is bubbled into the mixture for 20 min and 141 mg of CuI (0.74 mmol) is added. The vial is sealed and heated in the microwave at 210° C. for 30 min. The reaction mixture is applied onto a silica-gel chromatography column (Hexane:AcOEt=3:1 and CH3CN:CH2Cl2:Hexane=5:45:50) to give 64.3 mg of the title compound. Yield 38%. mass spectrum (m/e): 454 (M+1). 1H NMR (CDCl3): δ 6.72 (s, 1H), 3.88 (m, 4H), 3.60 (m, 4H), 3.32 (m, 1H), 2.54 (s, 3H), 2.47 (s, 3H), 1.85 (m, 4H), 0.89 (t, J=7.0 Hz, 6H).

reactant | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.37 mmol, 170 mg | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | sodium trifluoroacetate | 0.74 mmol, 100 mg | FC(C(=O)[O-])(F)F.[Na+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF toluene | 3 ml | CN(C)C=O.C1(=CC=CC=C1)C
catalyst | CuI | 0.74 mmol, 141 mg | [Cu]I
solvent | Hexane | CCCCCC | C6H14
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-morpholine | 64.3 mg, Yield 38% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N2CCOCC2)C(F)(F)F | C21H26F3N5OS
